US08937185B2
To a solution of 5-amino-1-(2-chloro-6-fluoro-4-(trifluoromethyl)phenyl)-1H-pyrazole-3-carbonitrile (140 g, 459.6 mmol, 1.00 eq.) and dimethylamine tosylate (151.8 g, 698.6 mmol, 1.52 eq.) in toluene (840 mL) was added CF3SOCl (89.7 g, 588.3 mmol, 1.28 eq.). After the mixture was stirred at 40° C. for 16 h, nitrogen was bubbled through the solution and the solution was cooled to rt. Then the mixture was poured into 2 L ice/water and stirred at 0° C. for 1 h. The precipitated solid was isolated by filtration and dried under vacuum. The solid was recrystallized with toluene to give 5-amino-1-(2-chloro-6-fluoro-4-(trifluoromethyl)phenyl)-4-(trifluoromethylsulfinyl)-1H-pyrazole-3-carbonitrile (125 g, 64%) as yellow solid.

reactant | 5-amino-1-(2-chloro-6-fluoro-4-(trifluoromethyl)phenyl)-1H-pyrazole-3-carbonitrile | 459.6 mmol, 140 g, 1.00 eq. | NC1=CC(=NN1C1=C(C=C(C=C1F)C(F)(F)F)Cl)C#N | C11H5ClF4N4
reactant | dimethylamine tosylate | 698.6 mmol, 151.8 g, 1.52 eq. | S(=O)(=O)(O)C1=CC=C(C)C=C1.CNC
reactant | CF3SOCl | 588.3 mmol, 89.7 g, 1.28 eq. | C(F)(F)(F)S(=O)Cl | CClF3OS
solvent | toluene | 840 mL | C1(=CC=CC=C1)C | C7H8
product | 5-amino-1-(2-chloro-6-fluoro-4-(trifluoromethyl)phenyl)-4-(trifluoromethylsulfinyl)-1H-pyrazole-3-carbonitrile | 125 g, 64% | NC1=C(C(=NN1C1=C(C=C(C=C1F)C(F)(F)F)Cl)C#N)S(=O)C(F)(F)F | C12H4ClF7N4OS
